US06414148B1
Diethyl azodicarboxylate (368 μl, 2.34 mmol) was added dropwise to a mixture of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (284 mg, 0.78 mmol), (prepared as described for the starting material in Example 48), triphenylphosphine (613 mg, 2.34 mmol) and 4-(2-hydroxyethyl)-3-morpholinone (170 mg, 1.17 mmol), (EP580402A2), in methylene chloride (10 ml) under nitrogen. The mixture was stirred for 2.5 hours at ambient temperature, the insolubles were removed by filtration. The filtrate was purified by pouring it directly on to a column of silica and eluting with methylene chloride/ethyl acetate/methanol (60/35/5). The purified product was triturated with ether and collected by filtration. The solid was dissolved in methylene chloride containing a few drops of methanol and 3.8M ethereal hydrogen chloride (0.5 ml) was added. The volatiles were removed by evaporation and the residue was triturated with ether, collected by filtration and dried under vacuum to give of 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(3-oxomorpholino)ethoxy)quinazoline hydrochloride (108 mg, 26%).

reactant | Diethyl azodicarboxylate | 2.34 mmol, 368 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.78 mmol, 284 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 2.34 mmol, 613 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)-3-morpholinone | 1.17 mmol, 170 mg | OCCN1C(COCC1)=O | C6H11NO3
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(3-oxomorpholino)ethoxy)quinazoline hydrochloride | 108 mg, 26% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C(COCC2)=O)C=C1)F | InChI=1S/C21H20BrFN4O4.ClH/c1-29-18-9-14-17(10-19(18)31-7-5-27-4-6-30-11-20(27)28)24-12-25-21(14)26-16-3-2-13(22)8-15(16)23;/h2-3,8-10,12H,4-7,11H2,1H3,(H,24,25,26);1H
